US06380218B1
1-[2-(4-Fluorophenoxy)-3-pyridinyl]-3-(4-methoxyphenyl)-1-propanone
A solution of 353 mg (1.00 mmol) 2-(4-Fluorophenoxy)-a-[2-(4-methoxyphenyl)ethyl]-3-pyridinemethanol in 5 mL of acetone was cooled to 0° C. and treated with 1.6 mL (2.00 mmol) of 1.25 M Jones Reagent solution. The mixture was allowed to warm to rt and then quenched by the addition of 5 mL of isopropanol. The precipitate was removed by filtration, and the filtrate was evaporated and partitioned between 50 mL of saturated aqueous sodium hydrogencarbonate solution and 100 mL of EtOAc. The separated organic layer was combined with a 100 mL EtOAc backwash of the aqueous layer, washed with brine (50 mL), dried (Na2SO4), and evaporated. Trituration of the residue in hexane gave 271 mg (77% yield) of the title compound, mp 73-74° C. 1H NMR (CDCl3) d 3.03 (2H, t, J=7 Hz), 3.43 (2H, t, J=7 Hz), 3.78 (3H, s), 6.75-7.18 (9H, m), 8.17 (1H, dd, J=2.8 Hz), ), 8.25 (1H, dd, J=2.4 Hz); Anal. Calcd for C21H18NO3F.0.25 H2O; C, 70.87; H, 5.10; N, 3.94. Found: C, 70.88; H, 4.79; N, 3.79.

reactant | 2-(4-Fluorophenoxy)-a-[2-(4-methoxyphenyl)ethyl]-3-pyridinemethanol | 1.00 mmol, 353 mg | FC1=CC=C(OC2=NC=CC=C2C(O)CCC2=CC=C(C=C2)OC)C=C1 | C21H20FNO3
reactant | Jones Reagent | 2.00 mmol, 1.25 M, 1.6 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
product | 1-[2-(4-Fluorophenoxy)-3-pyridinyl]-3-(4-methoxyphenyl)-1-propanone | 271 mg, 77% yield | FC1=CC=C(OC2=NC=CC=C2C(CCC2=CC=C(C=C2)OC)=O)C=C1 | C21H18FNO3
